US04499100
A solution of 3.5 g of 4-{[2-(1,4-benzodioxan-2-yl)-2-hydroxyethyl]amino}-1-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperidine dihydrochloride salt in water (50 ml) is adjusted to pH 12 with ammonium hydroxide solution and extracted with methylene chloride. The methylene chloride is evaporated to afford 3 g of 4-{[2-(1,4-benzodioxan-2-yl)-2-hydroxyethyl]amino}-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperidine as the free base.

reactant | 4-{[2-(1,4-benzodioxan-2-yl)-2-hydroxyethyl]amino}-1-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperidine dihydrochloride salt | 3.5 g | Cl.Cl.O1C(COC2=C1C=CC=C2)C(CNC2CCN(CC2)CC(=O)NC2=C(C=CC=C2C)C)O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 50 ml | O | H2O
product | 4-{[2-(1,4-benzodioxan-2-yl)-2-hydroxyethyl]amino}-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperidine | 3 g | O1C(COC2=C1C=CC=C2)C(CNC2CCN(CC2)CC(=O)NC2=C(C=CC=C2C)C)O | C25H33N3O4
